US07432279B2
4-[(3-chloro-4-fluorobenzyl)amino]-6-[(2-morpholin-4-ylethyl)amino]-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 4-[(3-chloro-4-fluorobenzyl)amino]-6-fluoro-1,7-naphthyridine-3-carbonitrile was reacted with 2-morpholin-4-yl-ethylamine. The crude product was purified by flash column chromatography (1% methanol in methylene chloride) to give a yellow solid (0.14 g, 48%). 1H NMR (400 MHz, DMSO-D6) δ ppm 2.4 (m, 4 H) 2.6 (m, 2 H) 3.4 (m, 2 H) 3.6 (m, 4 H) 5.0 (d, J=7.1 Hz, 2 H) 6.5 (m, 1 H) 7.0 (s, 1 H) 7.3 (m, 1 H) 7.4 (m, 1 H) 7.5 (dd, J=6.9, 1.9 Hz, 1 H) 8.1 (s, 1 H) 8.5 (m, 1 H) 8.8 (s, 1 H).

reactant | 4-[(3-chloro-4-fluorobenzyl)amino]-6-fluoro-1,7-naphthyridine-3-carbonitrile | ClC=1C=C(CNC2=C(C=NC3=CN=C(C=C23)F)C#N)C=CC1F | C16H9ClF2N4
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 4-[(3-chloro-4-fluorobenzyl)amino]-6-[(2-morpholin-4-ylethyl)amino]-1,7-naphthyridine-3-carbonitrile | 0.14 g, 48% | ClC=1C=C(CNC2=C(C=NC3=CN=C(C=C23)NCCN2CCOCC2)C#N)C=CC1F | C22H22ClFN6O
